US06262040B1
25.B 3-Ethyl-1-isopropyl-1H-indazole-6-carboxylic acid methyl ester
This compound was prepared according to the method of Preparation 3, using 750 mg (3.67 mmol, 1.0 equiv) 3-ethyl-1H-indazole-6-carboxylic acid methyl ester and 0.38 mL (4.04 mmol, 1.1 equiv) 2-bromopropane as starting materials to give 359 mg (40%) of a clear oil: HRMS calcd for C14H18N2O2+H: 247.1448. Found: 247.14530.

reactant | 3-ethyl-1H-indazole-6-carboxylic acid methyl ester | 3.67 mmol, 750 mg, 1.0 equiv | COC(=O)C1=CC=C2C(=NNC2=C1)CC | C11H12N2O2
reactant | 2-bromopropane | 4.04 mmol, 0.38 mL, 1.1 equiv | BrC(C)C | C3H7Br
product | 3-Ethyl-1-isopropyl-1H-indazole-6-carboxylic acid methyl ester | 359 mg, 40% | COC(=O)C1=CC=C2C(=NN(C2=C1)C(C)C)CC | C14H18N2O2
